US04258044
2,3,7-Trichloro-6-quinoxalinesulfonic Acid, 2,2,2-Trifluoroethyl Ester
To a stirred mixture of 470 g (1.42 mole) of 2,3,7-trichloro-6-quinoxalinesulfonyl chloride and 153 g (1.53 mole) of 2,2,2-trifluoroethanol in 3 liters of anhydrous tetrahydrofuran are added 183 g (1.42 mole) of N,N-diisopropylethylamine. The resulting mixture is heated under reflux with exclusion of moisture for 24 hours. The solvent is removed under reduced pressure to obtain a residue which is dispersed in one liter of diethyl ether. The resulting mixture is washed twice with 500 ml of water then dried over magnesium sulfate, and filtered. The filtrate obtained therefrom is evaporated to give crude product which is recrystallized first from cyclohexane and then from 2-propanol to give 112 g (20%) of nearly colorless crystals having a melting point of 142°-144°.

reactant | 2,3,7-trichloro-6-quinoxalinesulfonyl chloride | 1.42 mole, 470 g | ClC1=NC2=CC(=C(C=C2N=C1Cl)S(=O)(=O)Cl)Cl | C8H2Cl4N2O2S
reactant | 2,2,2-trifluoroethanol | 1.53 mole, 153 g | FC(CO)(F)F | C2H3F3O
reactant | N,N-diisopropylethylamine | 1.42 mole, 183 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 3 liters | O1CCCC1 | C4H8O
solvent | diethyl ether | one liter | C(C)OCC | C4H10O
product | 2,3,7-Trichloro-6-quinoxalinesulfonic Acid, 2,2,2-Trifluoroethyl Ester | ClC1=NC2=CC(=C(C=C2N=C1Cl)S(=O)(=O)OCC(F)(F)F)Cl | C10H4Cl3F3N2O3S
